US06498254B1
Preparation of 2-[[(3-nitro-4-methylphenyl)methyl]sulfonyl]pyridine-N-oxide
To a mixture of 12.1 g (0.042 mole) 2-[[(4-methyl-3-nitrophenyl)methyl]sulfinyl]-pyridine-1-oxide in 35 ml of acetic acid was added, dropwise at room temperature over one-half hour, a solution of 9.2 g (1. 16 mole) of 40% peracetic acid in acetic acid. The reaction mixture was heated to 70° C. for two hours, and then allowed to cool and stir at room temperature overnight. An additional period of heating at 70° C. for five hours was instituted after which time work-up of a small portion of the mixture indicated some starting material to still be present. Heating and stirring at 70° C. for two more hours, and then standing at room temperature over the weekend completed the reaction. Excess peracetic acid was then destroyed with sodium bisulfite followed by the addition of 100 ml of water and neutralization with potassium carbonate. The aqueous mixture was chilled in an ice bath to precipitate yellow/white crystals. These were filtered off, washed with water and dried. Recrystallization from ethanol gave 2.9 g of white fluffy needles, having a melting point of 154-156° C. Infrared and NMR spectra were in agreement with the proposed structure.

reactant | 2-[[(4-methyl-3-nitrophenyl)methyl]sulfinyl]-pyridine-1-oxide | 0.042 mole, 12.1 g | CC1=C(C=C(C=C1)CS(=O)C1=[N+](C=CC=C1)[O-])[N+](=O)[O-] | C13H12N2O4S
reactant | peracetic acid | 16 mole, 9.2 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-[[(3-nitro-4-methylphenyl)methyl]sulfonyl]pyridine-N-oxide | 2.9 g | [N+](=O)([O-])C=1C=C(C=CC1C)CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C13H12N2O5S
